US07825253B2
2-Chloro-5-(4-fluoro-benzyloxy)-quinoline (100 mg, 0.35 mmol) and 2-methoxybenzylamine (144 mg, 1.05 mmol) were stirred in a sealed tube at 150° C. for 16 hours. The reaction mixture was purified by flash chromatography on silica gel (heptane/ethyl acetate 100:0->80:20 gradient). 5-(4-Fluorobenzyloxy)-quinolin-2-yl-(2-methoxy-benzyl)-amine was obtained as a yellow oil (57 mg, 42%), MS: m/e=389.3 (M+H+).

reactant | 2-Chloro-5-(4-fluoro-benzyloxy)-quinoline | 0.35 mmol, 100 mg | ClC1=NC2=CC=CC(=C2C=C1)OCC1=CC=C(C=C1)F | C16H11ClFNO
reactant | 2-methoxybenzylamine | 1.05 mmol, 144 mg | COC1=C(CN)C=CC=C1 | C8H11NO
product | 5-(4-Fluorobenzyloxy)-quinolin-2-yl-(2-methoxy-benzyl)-amine | FC1=CC=C(COC2=C3C=CC(=NC3=CC=C2)NCC2=C(C=CC=C2)OC)C=C1 | C24H21FN2O2
